US04882330
1-(2-Chlorophenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol
A mixture of 35.1 g (0.15 mole) of 1-(o-chlorophenoxy)-2-hydroxybutyl chloride, 32.6 g (0.2 mole) of N-phenylpiperazine and 400 ml of 2-propanol was heated at reflux for 48 hr. The resulting reaction mixture was allowed to stand in a refrigerator overnight and filtered. The filtrate was treated with ethereal hydrogen chloride and precipitated with ether. Upon filtering, a white crystalline solid formed which was dissolved in dilute hydrochloric acid and the mixture was then neutralized with aqueous sodium hydroxide producing a crystalline precipitate. This was recrystallized with isopropanol yielding 36 g of the free base, m.p. 100°-101.5° C.

reactant | 1-(o-chlorophenoxy)-2-hydroxybutyl chloride | 0.15 mole, 35.1 g | ClC1=C(OC(C(CC)O)Cl)C=CC=C1 | C10H12Cl2O2
reactant | N-phenylpiperazine | 0.2 mole, 32.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-propanol | 400 ml | CC(C)O | C3H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 1-(2-Chlorophenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol | ClC1=C(OCC(CCN2CCN(CC2)C2=CC=CC=C2)O)C=CC=C1 | C20H25ClN2O2
